US04422866
21 g (0.15 mol) of potassium carbonate were added in portions to a suspension of 14.5 g (0.05 mol) of 1-n-propyl-piperazine dihydrobromide in 200 ml of acetonitrile. 7.4 g (0.05 mol) of dichloroacetyl chloride were added dropwise to this mixture at room temperature, while stirring. The mixture was subsequently stirred at 20° C. for 5 hours and working up was then effected by a procedure in which the reaction mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was recrystallized from a mixture of toluene and petroleum ether. 11.5 g (96% of theory) of 1-dichloroacetyl-4-n-propyl-piperazine were obtained in the form of beige-colored crystals of melting point 88° C.

reactant | potassium carbonate | 0.15 mol, 21 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-n-propyl-piperazine dihydrobromide | 0.05 mol, 14.5 g | Br.Br.C(CC)N1CCNCC1
reactant | dichloroacetyl chloride | 0.05 mol, 7.4 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-dichloroacetyl-4-n-propyl-piperazine | 11.5 g, 96% | ClC(C(=O)N1CCN(CC1)CCC)Cl | C9H16Cl2N2O
